US06455725B1
4-Chloro-2-(3-methoxy-3-oxo-1-propanyl)-benzoic Acid
Without addition of an additional hydrogenation catalyst, 43 g of 4-chloro-2-(3-hydroxy-3-oxo-1-propenyl)-benzoic acid in the form of the isolated solid from Example 5 in 400 ml of methanol are hydrogenated at 40° C. and a hydrogen pressure of from 20 to 40 bar. Filtration through Celite® and removal of the solvents under reduced pressure gives 35.3 g of product which, according to gas chromatography, contains 81 % of 4-chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoic acid. The same product is obtained using, instead of 4-chloro-2-(3-hydroxy-3-oxo-1-propenyl)-benzoic acid, 4-chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoic acid.

reactant | 4-chloro-2-(3-methoxy-3-oxo-1-propenyl)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)C=CC(=O)OC | C11H9ClO4
reactant | 4-chloro-2-(3-hydroxy-3-oxo-1-propenyl)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)C=CC(=O)O | C10H7ClO4
product | 4-Chloro-2-(3-methoxy-3-oxo-1-propanyl)-benzoic Acid | ClC1=CC(=C(C(=O)O)C=C1)CCC(=O)OC | C11H11ClO4
